US07884124B2
1.16. Synthesis of 6-bromo-4H-thieno[3,2-b]pyrrole-5-carboxylic acid (71)
The title compound was synthesized from 4H-thieno[3,2-b]pyrrole-5-carboxylic acid (0.1 g, 0.60 mmol, 1 equiv) and N-bromosuccinimide (NBS) (0.107 g, 0.599 mmol, 1 equiv) according to the halogenation method reported for the chlorination of 4H-thieno[3,2-b]pyrrole-5-carboxylic acid (with NCS) to 6-chloro-4H-thieno[3,2-b]pyrrole-5-carboxylic acid, providing the desired 6-bromo-4H-thieno[3,2-b]pyrrole-5-carboxylic acid 71 (15.5 mg, 10.5%). LC/MS m/e 243.9 (M−H). tR of product: 2.5-2.8 min. 1H NMR (400 MHz, CD3OD) δ ppm 7.42 (d, J=5.32 Hz, 1H), 7.01 (d, J=5.32 Hz, 1H).

reactant | 4H-thieno[3,2-b]pyrrole-5-carboxylic acid | 0.60 mmol, 0.1 g, 1 equiv | S1C=CC=2NC(=CC21)C(=O)O | C7H5NO2S
reactant | N-bromosuccinimide | 0.599 mmol, 0.107 g, 1 equiv | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6-chloro-4H-thieno[3,2-b]pyrrole-5-carboxylic acid | ClC=1C2=C(NC1C(=O)O)C=CS2 | C7H4ClNO2S
product | 6-bromo-4H-thieno[3,2-b]pyrrole-5-carboxylic acid | 15.5 mg, 10.5% | BrC=1C2=C(NC1C(=O)O)C=CS2 | C7H4BrNO2S
